US04267176
A mixture of formic acid (559.3 g.) and acetic anhydride (1033.4 g.) was stirred for 30 minutes at 40° to 50° C. and thereto was added methyl 6-amino-2-pyridinecarboxylate (616 g.) at 40° C., and then the mixture was stirred for 1 hour at 80° C. After the removal of the solvent from the reaction mixture, the residue was dissolved in a mixture of benzene and n-hexane and then filtered. Thus obtained precipitates were recrystallized from benzene (2 l.) to give methyl 6-formamido-2-pyridinecarboxylate (647.8 g.), mp 134° to 136° C.

reactant | acetic anhydride | 1033.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 6-amino-2-pyridinecarboxylate | 616 g | NC1=CC=CC(=N1)C(=O)OC | C7H8N2O2
solvent | formic acid | 559.3 g | C(=O)O | CH2O2
product | methyl 6-formamido-2-pyridinecarboxylate | 647.8 g | C(=O)NC1=CC=CC(=N1)C(=O)OC | C8H8N2O3
